US07022694B2
Step e. 6-Nitro-3-(trifluoroacetyl)-2,3,4,5-tetrahydro-1H-3-benzazepine
Under N2, a flame-dried, 100-mL, three-necked flask is charged with sodium perborate tetrahydrate (5.75 g, 37.4 mmol) and acetic acid (20 mL) and heated to 50–60° C. using an oil bath. A solution of 3-(trifluoroacetyl)-2,3,4,5-tetrahydro-1H-3-benzazepin-6-amine (1.93 g, 7.5 mmol) in acetic acid (20 mL) was slowly added drop-wise over 30 min. The mixture is heated at 55° C. for 1 hour. The mixture was filtered and partitioned between CH2Cl2 and water. The organic layer is washed with water and concentrated to give 2.24 g of an amber oil. Column chromatography (elution with 10–25% EtOAc/heptane) gives 1.52 g (70%) of the title compound as a yellow oil. An analytical sample was crystallized from EtOAc/hexane to give off-white crystals: mp 64–67° C.; 1H NMR (400 MHz, CDCl3) δ 7.63 (d, J=8 Hz, 1 H), 7.41–7.29 (m, 2 H), 3.89–3.74 (m, 4 H), 3.15–3.10 (m, 4 H); IR (diffuse reflectance) 1687, 1523, 1466, 1451, 1376, 1368, 1295, 1197, 1186, 1179, 1168, 1147, 950, 818, 752 cm−1; MS (EI) m/z 288 (M+); Anal. Calcd for C12H11F3N2O3: C, 50.01; H, 3.85; N, 9.72; F, 19.77. Found: C, 49.95; H, 3.88; N, 9.68.

reactant | sodium perborate tetrahydrate | 37.4 mmol, 5.75 g | B1(OO1)[O-].O.O.O.O.[Na+]
reactant | 3-(trifluoroacetyl)-2,3,4,5-tetrahydro-1H-3-benzazepin-6-amine | 7.5 mmol, 1.93 g | FC(C(=O)N1CCC2=C(CC1)C=CC=C2N)(F)F | C12H13F3N2O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 6-Nitro-3-(trifluoroacetyl)-2,3,4,5-tetrahydro-1H-3-benzazepine | 2.24 g | [N+](=O)([O-])C1=CC=CC=2CCN(CCC21)C(C(F)(F)F)=O | C12H11F3N2O3
